US07132419B2
Ethyl-carbamic acid 11-(2-dimethylamino-ethylcarbamoyl)-benzo[a]phenazin-4-yl ester
A mixture of 4-hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide: hydrobromide salt (540 mg), triethylamine (0.51 mL) and ethyl isocyanate (0.29 mL) was stirred in dry N,N-dimethylformamide (3 mL). The product slowly precipitated from the reaction mixture and was collected by filtration and washed with ether to yield the title compound as a yellow solid (210 mg).

reactant | 4-hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4O)C | C21H20N4O2
reactant | triethylamine | 0.51 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 0.29 mL | C(C)N=C=O | C3H5NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | Ethyl-carbamic acid 11-(2-dimethylamino-ethylcarbamoyl)-benzo[a]phenazin-4-yl ester | 210 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC(NCC)=O)C | C24H25N5O3
